US06221637B1
After o-toluic acid (500 mg, produced by Wako Pure Chemical Industries) was dissolved in dichloromethane (10 ml), chloromethylmethyl ether (360 μl) and triethylamine (665 μl) were added, followed by stirring at room temperature for 2 hours. After ethyl acetate (50 ml) was added, the reaction mixture was washed with 0.01M hydrochloric acid, 2% aqueous sodium hydrogen carbonate and water, each in an amount of (2×30 ml). The organic layer obtained was dried over anhydrous sodium sulfate, after which it was concentrated under reduced pressure to yield a colorless oily substance (600 mg). This oily substance (200 mg) was dissolved in carbon tetrachloride (10 ml); N-bromosuccinimide (198 mg) and 2,2′-azobisisobutyronitrile (1.8 mg) were added, followed by stirring at 90° C. for 3 hours. After filtration to remove the succinimide, the reaction mixture was concentrated. The residue obtained was subjected to silica gel column chromatography, washed with hexane and hexane/ethyl acetate (50:1), then eluted and fractionated with hexane/ethyl acetate (20:1). The eluate was concentrated under reduced pressure to yield 2-(bromomethyl)benzoic acid methoxymethyl ester (65 mg) as a colorless oily substance.

reactant | o-toluic acid | 500 mg | C=1(C(=CC=CC1)C(=O)O)C | C8H8O2
reactant | chloromethylmethyl ether | 360 μl | ClCOC | C2H5ClO
reactant | triethylamine | 665 μl | C(C)N(CC)CC | C6H15N
reactant | N-bromosuccinimide | 198 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azobisisobutyronitrile | 1.8 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(bromomethyl)benzoic acid methoxymethyl ester | 65 mg | COCOC(C1=C(C=CC=C1)CBr)=O | C10H11BrO3
